US06498172B1
(3-{[(4-Pyrazol-1-yl-benzyl)-(thiazole-2-sulfonyl)-amino]-methyl}-phenoxy)-acetic acid tert-butyl ester
The title compound of Step A was prepared following the method described in Step B of Example 3 from {3-[(4-pyrazol-1-yl-benzylamino)-methyl]-phenoxy}-acetic acid tert-butyl ester, prepared in Step A of Example 13a, and thiazole-2-sulfonyl chloride, of Preparation 45 with a reaction time of 3 h. 1H NMR (400 MHz, CD3OD) δ 7.95 (d, 1H), 7.87 (d, 1H), 7.69 (m, 1H), 7.59 (dd, 1H), 7.54 (d, 2H), 7.15 (m, 3H), 6.74 (m, 3H), 6.44 (m, 1H), 4.49 (s, 2H), 4.46 (s, 2H), 4.42 (s, 2H), 1.49 (s, 9H); MS 541 (M+1).

reactant | {3-[(4-pyrazol-1-yl-benzylamino)-methyl]-phenoxy}-acetic acid tert-butyl ester | C(C)(C)(C)OC(COC1=CC(=CC=C1)CNCC1=CC=C(C=C1)N1N=CC=C1)=O | C23H27N3O3
reactant | thiazole-2-sulfonyl chloride | S1C(=NC=C1)S(=O)(=O)Cl | C3H2ClNO2S2
product | (3-{[(4-Pyrazol-1-yl-benzyl)-(thiazole-2-sulfonyl)-amino]-methyl}-phenoxy)-acetic acid tert-butyl ester | C(C)(C)(C)OC(COC1=CC(=CC=C1)CN(S(=O)(=O)C=1SC=CN1)CC1=CC=C(C=C1)N1N=CC=C1)=O | C26H28N4O5S2
